US05453427
A suspension of methyl (4-hydroxy-2-mercapto-6-methyl-5-pyrimidinyl)-acetate (160 g, 0.75 mol) and Raney-Nickel in water (1.51) is refluxed for 16 hours. The reaction mixture is filtered and the filtrate concentrated under reduced pressure to 1/10 of the original volume. Filtration of the precipitate and drying gives methyl(4-hydroxy-6-methyl-5-pyrimidinyl)-acetate in form of colorless crystals (116 g, 85%).

reactant | methyl (4-hydroxy-2-mercapto-6-methyl-5-pyrimidinyl)-acetate | 0.75 mol, 160 g | OC1=NC(=NC(=C1CC(=O)OC)C)S | C8H10N2O3S
solvent | methanol | CO | CH4O
catalyst | Raney-Nickel | [Ni] | Ni
product | methyl(4-hydroxy-6-methyl-5-pyrimidinyl)-acetate | COC(CC=1C(=NC=NC1C)O)=O | C8H10N2O3
